US07888362B2
By a similar method as in Example 1, 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-3,4-dihydro-2H-isoquinolin-1-one was prepared from 7-(4-chlorobutoxy)-3,4-dihydro-2H-isoquinolin-1-one, and after it was made into an ethyl acetate solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from ethyl acetate and thereby 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-3,4-dihydro-2H-isoquinolin-1-one hydrochloride was obtained in the form of a white powder.

reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-3,4-dihydro-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCNC(C1=C2)=O | C25H29N3O2S
reactant | 7-(4-chlorobutoxy)-3,4-dihydro-2H-isoquinolin-1-one | ClCCCCOC1=CC=C2CCNC(C2=C1)=O | C13H16ClNO2
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butoxy]-3,4-dihydro-2H-isoquinolin-1-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCNC(C1=C2)=O | InChI=1S/C25H29N3O2S.ClH/c29-25-22-18-20(7-6-19(22)8-10-26-25)30-16-2-1-11-27-12-14-28(15-13-27)23-4-3-5-24-21(23)9-17-31-24;/h3-7,9,17-18H,1-2,8,10-16H2,(H,26,29);1H
